US06576643B2
c) (R)-10,11-Dihydro 3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
A mixture of ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate (0.4 g, 0.93 mmole) and 1.0 N NaOH (1.1 mL, 1.1 mmole) in absolute EtOH (10 mL) was warmed in an oil bath set at 50° C. After 18 hr, the reaction was concentrated on the rotavap and the residue was dissolved in H2O. The aqueous solution was adjusted to pH 4 with 3 N HCl, and the solid precipitate was collected and washed with H2O. The material was dried in high vacuum at 40° C. to afford the title compound (0.36 g, 96%) as a nearly colorless solid: [α]D +50.8° (c=0.12, CH3OH); MS (ES) m/e 403 (M+H)+. Anal. Calcd for C25H26N2O3.0.5 H2O: C, 72.97; H, 6.61; 6.80. Found: C, 73.09; H, 6.38; N, 6.58.

reactant | ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.93 mmole, 0.4 g | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@H](C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O3
reactant | NaOH | 1.1 mmole, 1.0 N, 1.1 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | (R)-10,11-Dihydro 3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | 0.36 g, 96% | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@H](C2)CC(=O)O)C=CC=C3)C1 | C25H26N2O3
